US07981903B2
A solution of (3S)-3-methyl-4-[3-(methyloxy)-4-nitrophenyl]morpholine (2.46 g, 9.76 mmol), FeCl3 (0.400 g, 2.44 mmol), activated carbon (2.0 g), and hydrazine hydrate (2.5 mL, 78 mmol) was heated in methanol (150 mL) for 3 hours. Once the starting material was judged consumed by thin layer chromatography (10% MeOH/CH2CL2) the mixture was filtered over celite and concentrated to give 4-[(3S)-3-methyl-4-morpholinyl]-2-(methyloxy)aniline as a dark purple solid (1.76 g, 7.93 mmol, 81% yield). 1H NMR (400 MHz, CDCl3) δ ppm 0.90 (d, J=6.60 Hz, 3 H), 2.95 (dd, J=6.97, 3.30 Hz, 1 H), 2.98-3.06 (m, 1 H), 3.28 (td, J=6.42, 3.30 Hz, 1 H), 3.50 (dd, J=11.00, 6.60 Hz, 1 H), 3.64 (d, J=13.20 Hz, 2 H), 3.76-3.82 (m, 1 H), 3.83 (s, 3 H), 3.84-3.90 (m, 2 H), 6.50 (dd, J=8.43, 2.20 Hz, 1 H), 6.56 (s, 1 H), 6.66 (d, J=8.43 Hz, 1 H).

reactant | (3S)-3-methyl-4-[3-(methyloxy)-4-nitrophenyl]morpholine | 9.76 mmol, 2.46 g | C[C@@H]1N(CCOC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C12H16N2O4
reactant | hydrazine hydrate | 78 mmol, 2.5 mL | O.NN
solvent | methanol | 150 mL | CO | CH4O
product | 4-[(3S)-3-methyl-4-morpholinyl]-2-(methyloxy)aniline | 7.93 mmol, 1.76 g, 81% yield | C[C@@H]1N(CCOC1)C1=CC(=C(N)C=C1)OC | C12H18N2O2
